US04816452
b. Ethyl (Z)-2-(trans-4-chlorocyclohexyloxyimino)-3-oxobutyrate
Ethyl (Z)-2-hydroxyimino-3-oxobutyrate (95 mg) was treated with cis-4-chlorocyclohexanol as described in Example 4a, Method 3, to give the title compound as a colourless liquid (37 mg, 21%), (Found: M+, 276.1011. C12H19NO4Cl requires M, 276.1002) νmax (film) 1735, 1685, 1360, 1310, and 950 cm-1, νH (CDCl3), 1.32 (3H, t, J 7. 1 Hz), 1.76 (4H, m), 2.14 (4H, m), 2.4 (3H, s), 4.19 (1H, m), 4.35 (2H, q, J 7.1 Hz), and 4.44 (1H, m).

reactant | Ethyl (Z)-2-hydroxyimino-3-oxobutyrate | 95 mg | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | cis-4-chlorocyclohexanol | Cl[C@H]1CC[C@H](CC1)O | C6H11ClO
product | Ethyl (Z)-2-(trans-4-chlorocyclohexyloxyimino)-3-oxobutyrate | 37 mg, 21% | Cl[C@@H]1CC[C@H](CC1)O\N=C(/C(=O)OCC)\C(C)=O | C12H18ClNO4
